US07915295B2
a) 2-nitro-5-[4-(1H-1,2,4-triazol-1-yl)phenoxy]pyridine
Cesium carbonate (1.3 g, 4.03 mmol) was mixed with 3 ml of dry dimethylformamide, 4-(1H-1,2,4-triazol-1-yl)phenol (0.5 g, 3.1 mmol) and 5-bromo-2-nitropyridine (0.63 g, 3.1 mmol) and the reaction mixture was heated at stirring at 70° C. in a closed vial. The reaction mixture was then mixed with 40 ml of water and extracted into methylene chloride (3×20 ml). Organic extract was washed with water and brine, dried over magnesium sulfate and concentrated by rotary evaporation. The resulting greenish-brown solid was washed thoroughfully with methylene chloride to give 280 mg of desired compound (32% yield).

reactant | Cesium carbonate | 4.03 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | 4-(1H-1,2,4-triazol-1-yl)phenol | 3.1 mmol, 0.5 g | N1(N=CN=C1)C1=CC=C(C=C1)O | C8H7N3O
reactant | 5-bromo-2-nitropyridine | 3.1 mmol, 0.63 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
solvent | water | 40 ml | O | H2O
product | 2-nitro-5-[4-(1H-1,2,4-triazol-1-yl)phenoxy]pyridine | 280 mg, 32% yield | [N+](=O)([O-])C1=NC=C(C=C1)OC1=CC=C(C=C1)N1N=CN=C1 | C13H9N5O3
